US06528510B1
4-Methyl-1-(4-methyl-thiazol-5-yl)-pentan-3-one
The title compound was prepared as described in General Method 3 using 1.73 g (8.86 mmol) of 4-methyl-1-(4-methyl-thiazol-5-yl)-pent-1-en-3-one (prepared in Example B-1) and 0.4 g of 5% Pd/BaSO4 in THF:MeOH (25 mL:25 mL). The crude product was chromatographed on silica gel, eluting with 2:1 hexane:EtOAc, to give the title compound. 1H NMR (CDCl3): δ1.03 (d, 6 H), 2.35 (s, 3 H), 2.49-2.56 (m, 1 H), 2.72 (t, 2 H), 2.98 (t, 2 H), 8.49 (s, 1 H).

reactant | 4-methyl-1-(4-methyl-thiazol-5-yl)-pent-1-en-3-one | 8.86 mmol, 1.73 g | CC(C(C=CC1=C(N=CS1)C)=O)C | C10H13NOS
reactant | MeOH | 25 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd BaSO4 | 0.4 g | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | 4-Methyl-1-(4-methyl-thiazol-5-yl)-pentan-3-one | CC(C(CCC1=C(N=CS1)C)=O)C | C10H15NOS
